US08497264B2
In a microwave vessel, potassium phosphate (0.012 g, 0.056 mmol), bis[di-tert-butyl(4-dimethylaminophenyl)phosphine]dichloropalladium(II) (0.985 mg, 1.391 μmol) and 2-fluoropyridin-3-ylboronic acid (5.23 mg, 0.037 mmol) were loaded as solids, and (3R)-2′-bromo-7′-(2,2-dimethylpropoxy)-6H-spiro[1,4-oxazine-3,9′-xanthen]-5-amine (0.008 g, 0.019 mmol) was added via cannula as a solution in dioxane (1 mL). Water (0.25 mL) was added to the vessel, and the mixture was purged with argon gas, then the vessel was sealed and heated in microwave radiation at 135° C. for 30 min. The material was taken up in water (10 mL) and the aqueous phase was extracted with DCM (3×20 mL). The organics were combined, washed with dilute brine (5 mL), dried over sodium sulfate, and concentrated. The material was purified by preparative TLC (13% MeOH/DCM) to afford (3S)-2′-(2,2-dimethylpropoxy)-7′-(2-fluoro-3-pyridinyl)-6H-spiro[1,4-oxazine-3,9′-xanthen]-5-amine.

reactant | potassium phosphate | 0.056 mmol, 0.012 g | P(=O)([O-])([O-])[O-].[K+].[K+].[K+]
reactant | 2-fluoropyridin-3-ylboronic acid | 0.037 mmol, 5.23 mg | FC1=NC=CC=C1B(O)O | C5H5BFNO2
reactant | (3R)-2′-bromo-7′-(2,2-dimethylpropoxy)-6H-spiro[1,4-oxazine-3,9′-xanthen]-5-amine | 0.019 mmol, 0.008 g | BrC1=CC=2[C@]3(C4=CC(=CC=C4OC2C=C1)OCC(C)(C)C)COCC(=N3)N | C21H23BrN2O3
reactant | Water | 0.25 mL | O | H2O
solvent | dioxane | 1 mL | O1CCOCC1 | C4H8O2
product | (3S)-2′-(2,2-dimethylpropoxy)-7′-(2-fluoro-3-pyridinyl)-6H-spiro[1,4-oxazine-3,9′-xanthen]-5-amine | CC(COC1=CC=2[C@@]3(C4=CC(=CC=C4OC2C=C1)C=1C(=NC=CC1)F)COCC(=N3)N)(C)C | C26H26FN3O3
